US04061656
36.5 G. of 8-hydroxy-3,7-dimethyl-octa-2,4,6,-trien-1-oic acid ethyl ester are dissolved in 380 ml. of ether. The solution is cooled to 0° C., and after the addition of 3 drops of pyridine treated dropwise with 28.6 g. of phosphorous tribromide in 120 ml. of hexane. The mixture is stirred for 20 minutes at 0° C., then poured onto ice water and extracted with ether. The ether extract is washed successively with water, a saturated aqueous sodium bicarbonate solution and again with water, dried over sodium sulfate and evaporated. There is obtained 8-bromo-3,7-dimethyl-octa-2,4,6-trien-1-oic acid ethyl ester.

reactant | 8-hydroxy-3,7-dimethyl-octa-2,4,6,-trien-1-oic acid ethyl ester | C(C)OC(C=C(C=CC=C(CO)C)C)=O | C12H18O3
reactant | ether | CCOCC | C4H10O
reactant | phosphorous tribromide | P(Br)(Br)Br | Br3P
catalyst | pyridine | 3 drops | N1=CC=CC=C1 | C5H5N
solvent | hexane | CCCCCC | C6H14
product | 8-bromo-3,7-dimethyl-octa-2,4,6-trien-1-oic acid ethyl ester | C(C)OC(C=C(C=CC=C(CBr)C)C)=O | C12H17BrO2
